US07618990B2
A mixture of 4-(chloroacetyl)thiophene-2-carbonitrile (500.5 mg, 2.73 mmol), prepared in step 1 of Example 59, and N-(2-hydroxy-1,1-dimethylethyl)thiourea (399.4 mg, 2.69 mmol), prepared in step 2 of Example 52, in 20 mL of ethanol was stirred under nitrogen at room temperature overnight. The solid was collected by filtration and dried under reduced pressure to give 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}thiophene-2-carbonitrile hydrochloride (738.1 mg, 86%) as a light tan solid, mp 197-201° C.; MS (ES) m/z 277.9 [M−H]−.

reactant | 4-(chloroacetyl)thiophene-2-carbonitrile | 2.73 mmol, 500.5 mg | ClCC(=O)C=1C=C(SC1)C#N | C7H4ClNOS
reactant | N-(2-hydroxy-1,1-dimethylethyl)thiourea | 2.69 mmol, 399.4 mg | OCC(C)(C)NC(=S)N | C5H12N2OS
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}thiophene-2-carbonitrile hydrochloride | 738.1 mg, 86% | Cl.OCC(C)(C)NC=1SC=C(N1)C=1C=C(SC1)C#N | InChI=1S/C12H13N3OS2.ClH/c1-12(2,7-16)15-11-14-10(6-18-11)8-3-9(4-13)17-5-8;/h3,5-6,16H,7H2,1-2H3,(H,14,15);1H
